US07030139B2
2-[(4-Ethoxyphenyl)hydroxymethyl]-N,N-diethyl-(3-methylbutyl)-1H-benzimidazole-5-carboxamide
2-(4-ethoxybenzoyl)-N,N-diethyl-1-(3-methylbutyl)-1H-benzimidazole-5-carboxamide (110 mg, 0.252 mmol) was dissolved in 3 mL of EtOH. NaBH4 (12 mg, 1.2 eq) was added and the solution stirred at rt for 1 h. The solvent was concentrated and the residue dissolved in EtOAc. The organic phase was washed with saturated NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was directly purified by reversed-phase chromatography (C-18 column) using a gradient of 10–65% CH3CN/H2O and then lyophilized affording the title compound. The product was isolated as the corresponding TFA salt. Yield: 102 mg (73%); 1H NMR (400 MHz, CD3OD) δ 7.85 (br s, 2H), 7.62 (br s, 1H), 7.40 (br s, 2H), 7.01 (br s, 2H), 6.33 (br s, 1H), 4.29 (br s, 2H), 4.06 (br s, 2H), 3.62 (br s, 2H), 3.32 (br s, 2H), 1.55 (br, 2H), 1.38 (br s, 3H), 1.30 (br s, 3H), 1.17 (br s, 2H), 0.90 (s, 3H), 0.83 (s, 3H); MS (ESI) (M+H)+=438.30; Anal. Calcd for C26H35N3O3+1.2 TFA: C, 59.38; H, 6.35; N, 7.32. Found: C, 59.36; H, 5.97; N, 7.37.

reactant | 2-(4-ethoxybenzoyl)-N,N-diethyl-1-(3-methylbutyl)-1H-benzimidazole-5-carboxamide | 0.252 mmol, 110 mg | C(C)OC1=CC=C(C(=O)C2=NC3=C(N2CCC(C)C)C=CC(=C3)C(=O)N(CC)CC)C=C1 | C26H33N3O3
reactant | NaBH4 | 12 mg, 1.2 eq | [BH4-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[(4-Ethoxyphenyl)hydroxymethyl]-N,N-diethyl-(3-methylbutyl)-1H-benzimidazole-5-carboxamide | C(C)OC1=CC=C(C=C1)C(C1=NC2=C(N1CCC(C)C)C=CC(=C2)C(=O)N(CC)CC)O | C26H35N3O3
